US05288871
5-(3H-Imidazo[4,5-c]pyridin-2-ylthiomethyl)benzene-1,3-diol dibenzoate (ester)
The synthesis of this compound proceeded in the same fashion as Example 15 using 1.66 g (0.011 mol) of 2-mercapto-1H-imidazo[4,5-c]pyridine, 0.28 g (0.012 g atom) of sodium and 4.51 g (0.011 mol) of 5-bromomethyl-benzene-1,3-diol dibenzoate. The crude material (4.2 g) when subjected to HPLC gave pure product (m.p. 209°-212° C.).

reactant | 2-mercapto-1H-imidazo[4,5-c]pyridine | 0.011 mol, 1.66 g | SC=1NC2=C(C=NC=C2)N1 | C6H5N3S
reactant | sodium | 0.28 g | [Na] | Na
reactant | 5-bromomethyl-benzene-1,3-diol dibenzoate | 0.011 mol, 4.51 g | C(C1=CC=CC=C1)(=O)OC1=CC(=CC(=C1)CBr)OC(C1=CC=CC=C1)=O | C21H15BrO4
product | 5-(3H-Imidazo[4,5-c]pyridin-2-ylthiomethyl)benzene-1,3-diol dibenzoate | C(C1=CC=CC=C1)(=O)OC1=CC(=CC(=C1)CSC1=NC2=C(C=NC=C2)N1)OC(C1=CC=CC=C1)=O | C27H19N3O4S
